US07820649B2
[2-(4-Fluoro-3-methoxyphenyl)-4-oxo-6-(3,6,6-trimethylperhydro-1,4-diazepin-1-yl)-4H-quinazolin-3-yl]acetic acid tert-butyl ester (INTERMEDIATE VII.12) (160 mg, 0.305 mmol) was dissolved in DCM (10 mL) and TFA (3 mL) added. The reaction mixture was stirred at room temperature overnight. Crude reaction mixture was poured directly onto an SCX cartridge, the cartridge was washed with MeOH and product eluted with 2N NH3/MeOH. Solvent was removed under reduced pressure to afford [2-(4-fluoro-3-methoxyphenyl)-4-oxo-6-(3,6,6-trimethylperhydro-1,4-diazepin-1-yl)-4H-quinazolin-3-yl]acetic acid (INTERMEDIATE IX.1) which was used without further purification.

reactant | [2-(4-Fluoro-3-methoxyphenyl)-4-oxo-6-(3,6,6-trimethylperhydro-1,4-diazepin-1-yl)-4H-quinazolin-3-yl]acetic acid tert-butyl ester | 0.305 mmol, 160 mg | C(C)(C)(C)OC(CN1C(=NC2=CC=C(C=C2C1=O)N1CC(NCC(C1)(C)C)C)C1=CC(=C(C=C1)F)OC)=O | C29H37FN4O4
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | [2-(4-fluoro-3-methoxyphenyl)-4-oxo-6-(3,6,6-trimethylperhydro-1,4-diazepin-1-yl)-4H-quinazolin-3-yl]acetic acid | FC1=C(C=C(C=C1)C1=NC2=CC=C(C=C2C(N1CC(=O)O)=O)N1CC(NCC(C1)(C)C)C)OC | C25H29FN4O4
